US04602092
[Hydroxy(ethyl)phosphinyl]acetic acid
Following the procedure as set out in Example 1, except substituting ethylphosphonous acid for 4-phenylbutylphosphonous acid, and substituting chloroacetic acid for benzylbromoacetate, the title compound is obtained.

reactant | 4-phenylbutylphosphonous acid | C1(=CC=CC=C1)CCCCP(O)O | C10H15O2P
reactant | benzylbromoacetate | C(C1=CC=CC=C1)C(C(=O)[O-])Br
product | [Hydroxy(ethyl)phosphinyl]acetic acid | OP(=O)(CC)CC(=O)O | C4H9O4P
